US07399759B2
2-(2-Thienyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (1.60 g, 9.5 mmol), 2-thiophenecarboxylic acid (1.04 g, 9.5 mmol), triethylamine (2.0 ml, 14.3 mmol) and toluene (2 ml) was refluxed for 12 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from methanol-ether to give the titled compound (1.71 g, 73%).

reactant | methyl thiosalicylate | 9.5 mmol, 1.60 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-thiophenecarboxylic acid | 9.5 mmol, 1.04 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Thienyl)-4H-1,3-benzothiazine-4-one | 1.71 g, 73% | S1C(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C12H7NOS2
